US07407968B2
tert-Butyl (2S)-2-{[(4-{[bis(2,2,2-trifluoroethyl)amino]carbonyl}-2-nitrophenyl)amino]methyl}piperidine-1-carboxylate
Following the general procedure for Intermediate 2 using 4-fluoro-3-nitro-N,N-bis(2,2,2-trifluoroethyl)benzamide (200 mg, 0.574 mmol) and tert-butyl (2S)-2-(aminomethyl)piperidine-1-carboxylate (150 mg, 0.689 mmol) in 10 mL of EtOH containing TEA (0.120 mL, 0.861 mmol). The product was purified by flash chromatography on silica gel using 3:1/hexanes:EtOAc as eluent Yield: 311 mg (99%); 1H NMR (400 MHz, CHLOROFORM-D) δ 1.47 (s, 9H), 1.52 (m, 1H), 1.66 (m, 1H), 1.71 (s, 2H), 1.74 (s, 2H), 2.79 (m, 1H), 3.36 (m, 1H), 3.65 (m, 1H), 4.09 (s, 1H), 4.26 (q, J=8.33 Hz, 4H), 4.64 (m, 1H), 7.07 (d, J=8.98 Hz, 1H), 7.55 (dd, J=8.89, 2.05 Hz, 1H), 8.30 (d, J=2.15 Hz, 1H), 8.39 (m, 1H); MS (ESI) 542.81 (MH+).

reactant | 4-fluoro-3-nitro-N,N-bis(2,2,2-trifluoroethyl)benzamide | 0.574 mmol, 200 mg | FC1=C(C=C(C(=O)N(CC(F)(F)F)CC(F)(F)F)C=C1)[N+](=O)[O-] | C11H7F7N2O3
reactant | tert-butyl (2S)-2-(aminomethyl)piperidine-1-carboxylate | 0.689 mmol, 150 mg | NC[C@H]1N(CCCC1)C(=O)OC(C)(C)C | C11H22N2O2
solvent | EtOH | 10 mL | CCO | C2H6O
product | tert-Butyl (2S)-2-{[(4-{[bis(2,2,2-trifluoroethyl)amino]carbonyl}-2-nitrophenyl)amino]methyl}piperidine-1-carboxylate | FC(CN(C(=O)C1=CC(=C(C=C1)NC[C@H]1N(CCCC1)C(=O)OC(C)(C)C)[N+](=O)[O-])CC(F)(F)F)(F)F | C22H28F6N4O5
